US07435854B2
Step a—Formation of the Reagent Sodium Dodecanethiolate.
Dodecanethiol (246 g) and sodium methylate in methanol 30% (216 g) are charged to a rotary evaporator. Vacuum is applied and the solvent is abstracted completely using a bath temperature up to 90° C. The remaining sodium dodecanethiolate (272 g) is used without further purification in the subsequent step.

reactant | Dodecanethiol | 246 g | C(CCCCCCCCCCC)S | C12H26S
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 216 g | CO | CH4O
product | Sodium Dodecanethiolate | C(CCCCCCCCCCC)[S-].[Na+] | InChI=1S/C12H26S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13;/h13H,2-12H2,1H3;/q;+1/p-1
